US08957074B2
Step 2: Synthesis of 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester
To a solution of 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid (400 mg, 1.01 mmol) in DMF (5 mL) was added O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU, 580 mg, 1.53 mmol, 1.5 equiv) and N,N-diisopropylethylamine (0.55 mL, 3.0 equiv) and the resulting mixture stirred at room temperature for 5 minutes. To the reaction mixture was added 3,8-Diaza-bicyclo[3.2.1]octane-8-carboxylic acid Pert-butyl ester (250 mg, 1.18 mmol. 1.1 eq). The resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted in EtOAc, washed with 0.5M HCl, water, dried over Na2SO4, filtered and concentrated. Material was immediately used in next step without further purification. MS: (M+H)=589.7

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | 1.01 mmol, 400 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.53 mmol, 580 mg, 1.5 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.55 mL, 3.0 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,8-Diaza-bicyclo[3.2.1]octane-8-carboxylic acid | C12CNCC(CC1)N2C(=O)O | C7H12N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C31H40N8O4
